US05686445
2-Chloro-5H-dibenz[b,e]azepine-6,11-dione
Chlorine gas is bubbled into a mixture (partial suspension) of 1.0 g (450 mmol) of 5H-dibenz[b,e]azepine-6,11-dione in 50 ml of glacial acetic acid. The temperature of the mixture rises to 38° C. On standing, as the temperature of the solutions decreases, a white solid precipitates. The mixture is filtered to give 0.40 g of solid (mixture of starting material and product in ratio of 1:8). The filtrate on standing gives 0.10 g of product as crystals, m.p. 289°-293° C.

reactant | Chlorine | ClCl | Cl2
reactant | 5H-dibenz[b,e]azepine-6,11-dione | 450 mmol, 1.0 g | C1=CC=CC=2NC(C3=C(C(C21)=O)C=CC=C3)=O | C14H9NO2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-Chloro-5H-dibenz[b,e]azepine-6,11-dione | 0.40 g | ClC1=CC2=C(NC(C3=C(C2=O)C=CC=C3)=O)C=C1 | C14H8ClNO2
